US09226501B2
(E)-2-Bromo-4-(3-(3,5-dichloro-4-hydroxyphenyl)-4,4,4-trifluorobut-1-enyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide
DIPEA (0.20 mL, 1.26 mmol), PyBOP (245 mg, 0.47 mmol) and 2-amino-N-(2,2,2-trifluoroethyl)acetamide (90 mg, 0.47 mmol) were added to a stirred solution of (E)-2-bromo-4-(3-(3,5-dichloro-4-hydroxyphenyl)-4,4,4-trifluorobut-1-enyl)benzoic acid (200 mg, 0.42 mmol, 66% purity) in CH2Cl2 (5 mL) at ambient temperature. The resulting mixture was then stirred for 12 h. The reaction mixture was diluted with CH2Cl2, washed with 1N HCl, followed by saturated sodium bicarbonate solution, brine solution and water. The organic layer was dried (Na2SO4), filtered, concentrated under vacuum. The residue was purified by column chromatography on silica (100-200 mesh) eluting with 30% EtOAc in petroleum ether to give the title compound as light green solid (130 mg, 52%).

reactant | DIPEA | 1.26 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.47 mmol, 245 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-amino-N-(2,2,2-trifluoroethyl)acetamide | 0.47 mmol, 90 mg | NCC(=O)NCC(F)(F)F | C4H7F3N2O
reactant | (E)-2-bromo-4-(3-(3,5-dichloro-4-hydroxyphenyl)-4,4,4-trifluorobut-1-enyl)benzoic acid | 0.42 mmol, 200 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)O)Cl | C17H10BrCl2F3O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-Bromo-4-(3-(3,5-dichloro-4-hydroxyphenyl)-4,4,4-trifluorobut-1-enyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide | 130 mg, 52% | BrC1=C(C(=O)NCC(NCC(F)(F)F)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)O)Cl | C21H15BrCl2F6N2O3
